US04256757
(E)-1-(7-methoxycarbonyl-5,5-dimethyl-6-heptenyl)imidazole
By the proceeding as described in Example 1 but utilizing 1-(5-formyl-5-methylhexyl)imidazole and diethyl methoxycarbonylmethylphosphonate, there was obtained the title compound having the following physical characteristic in 66% yields:

reactant | 1-(5-formyl-5-methylhexyl)imidazole | C(=O)C(CCCCN1C=NC=C1)(C)C | C11H18N2O
reactant | diethyl methoxycarbonylmethylphosphonate | COC(=O)CP(OCC)(OCC)=O | C7H15O5P
product | (E)-1-(7-methoxycarbonyl-5,5-dimethyl-6-heptenyl)imidazole | COC(=O)/C=C/C(CCCCN1C=NC=C1)(C)C | C14H22N2O2
